US06048864
1-Acetyl-4-(4-morpholinecarbonyl)-1,4-diazepane
To a solution of 1-(4-morpholinecarbonyl)-1,4-diazepane hydrochloride (50 g, 0.2 mol) and triethylamine (42 ml, 30.5 g, 0.3 mol) in dichloromethane (400 ml) at 5° C. was added acetic anhydride (23 ml, 24.9 g, 0.24 mol) dropwise over 15 minutes and the reaction was then stirred for a further 2 hours at room temperature under nitrogen. Dilution with dichloromethane (600 ml) was followed by washing with saturated aqueous sodium bicarbonate (2×200 ml) and the combined aqueous layers extracted with dichloromethane (1×100 ml). The dichloromethane layers were combined and washed with saturated brine, dried over MgSO4 and evaporated to give a light brown oil. This was dissolved in dichloromethane (300 ml) and treated with triethylamine (8 ml, 5.8 g, 0.06 mol) and ethanol (5 ml), stirred for 1 hour at room temperature then washed with saturated sodium bicarbonate and the aqueous layer extracted with dichloromethane (5×). The combined dichloromethane layers were dried over MgSO4 and evaporated under reduced pressure to give a yellow oil which was then azeotroped with dichloromethane (4×) to give the title compound as a yellow oil (47.1 g, 92%). Rf 0.45 (0.880 aqueous ammonia: methanol:dichloromethane 1:10:90, v/v). MS m/z 256 (MH)+. Found: C,52.62; H,8.18; N,15.02; C12H21N3O3 0.3CH2Cl2 requires C, 52.61; H, 7.75; N,14.96%.

reactant | 1-(4-morpholinecarbonyl)-1,4-diazepane hydrochloride | 0.2 mol, 50 g | Cl.N1(CCOCC1)C(=O)N1CCNCCC1
reactant | triethylamine | 0.3 mol, 42 ml, 30.5 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.24 mol, 23 ml, 24.9 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.06 mol, 8 ml, 5.8 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 5 ml | C(C)O | C2H6O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 600 ml | ClCCl | CH2Cl2
product | 1-Acetyl-4-(4-morpholinecarbonyl)-1,4-diazepane | 47.1 g, 92% | C(C)(=O)N1CCN(CCC1)C(=O)N1CCOCC1 | C12H21N3O3
